US07576072B2
Step F: Preparation of 5-chloro-4-fluoro-3-(2-fluorophenylamino)-6-trimethylsilanylethynyl-pyridine-2-carboxylic acid methyl ester:
A mixture of 5,6-dichloro-4-fluoro-3-(2-fluorophenylamino)-pyridine-2-carboxylic acid methyl ester (1.00 equivalent), TMS-acetylene (1.20 equivalents), Pd(PPh3)2Cl2 (0.10 equivalents), CuI (0.10 equivalents), and i-Pr2NH (2.00 equivalents) in THF is stirred for 16 hours at room temperature. THF is evaporated in vacuo. The reaction mixture is diluted with EtOAc and washed with saturated aqueous NH4Cl and brine. The organic layer is dried over MgSO4, filtered, and concentrated to give the crude material that is purified by flash column chromatography to afford the desired product.

reactant | 5,6-dichloro-4-fluoro-3-(2-fluorophenylamino)-pyridine-2-carboxylic acid methyl ester | 1.00 equivalent | COC(=O)C1=NC(=C(C(=C1NC1=C(C=CC=C1)F)F)Cl)Cl | C13H8Cl2F2N2O2
reactant | TMS-acetylene | 1.20 equivalents | [Si](C)(C)(C)C#C | C5H10Si
reactant | i-Pr2NH | 2.00 equivalents | N(C(C)C)C(C)C | C6H15N
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 0.10 equivalents | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.10 equivalents | [Cu]I
product | 5-chloro-4-fluoro-3-(2-fluorophenylamino)-6-trimethylsilanylethynyl-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C(=C1NC1=C(C=CC=C1)F)F)Cl)C#C[Si](C)(C)C | C18H17ClF2N2O2Si
